US06329397B1
Cerium chloride (0.21 g, 0.86 mmol) was dried in vacuo at 90° C. for 1 hour, then at 140° C. for 1.5 hours. After cooling to room temperature, 2.8 mL of THF was added, and the suspension was stirred for 1 hour. 5-Oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.10 g, 0.39 mmol) was added, and the mixture was stirred at 0° C. for 2 hour. Methyl magnesium bromide (0.14 mL of a 3M solution in ether) was added dropwise at −50° C, and the mixture was immediately warmed to room temperature and stirred for 30 minutes. Additional methyl magnesium bromide was added following the preceeding procedure until the reaction was complete as determined by 1H NMR of an aliquot worked up as described below. The mixture was diluted with saturated aqueous NH4Cl, extracted 3 times with ethyl acetate, and the combined organic layers were dried over Na2SO4, filtered and concentrated, affording ca. 0.08 g of crude 5-hydroxy-5-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester as a colorless oil.

reactant | Cerium chloride | 0.86 mmol, 0.21 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | THF | 2.8 mL | C1CCOC1 | C4H8O
reactant | 5-Oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.39 mmol, 0.10 g | COC(=O)C1N(CC(CC1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | Methyl magnesium bromide | C[Mg]Br
solvent | ether | CCOCC | C4H10O
solvent | NH4Cl | [NH4+].[Cl-]
product | 5-hydroxy-5-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | ca. 0.08 g | COC(=O)C1N(CC(CC1)(C)O)C(=O)OC(C)(C)C | C13H23NO5
